US07592373B2
4.276.b. 1-[2-(4-amino-2-methoxyphenoxy)ethyl]piperidine-4-carboxylic acid amide
Prepared analogously to Example 3.1.b. from 1 g (3.1 mmol) of 1-[2-(2-methoxy-4-nitrophenoxy)ethyl]piperidine-4-carboxylic acid amide. Yield: 0.8 g (88% of theory); C15H23N3O3 (M=298.38); calc.: molecular ion peak (M+H)+: 294; found: molecular ion peak (M+H)+: 294; Rf value: 0.3 (silica gel, dichloromethane/methanol/ammonia (9:1:0.1)).

reactant | 1-[2-(2-methoxy-4-nitrophenoxy)ethyl]piperidine-4-carboxylic acid amide | 3.1 mmol, 1 g | COC1=C(OCCN2CCC(CC2)C(=O)N)C=CC(=C1)[N+](=O)[O-] | C15H21N3O5
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
product | 1-[2-(4-amino-2-methoxyphenoxy)ethyl]piperidine-4-carboxylic acid amide | NC1=CC(=C(OCCN2CCC(CC2)C(=O)N)C=C1)OC | C15H23N3O3
